US08604031B2
2-Chloropyridine-4-boronic acid (11.0 g, 69.9 mmol), 3-Bromoacetophenone (11.2 mL, 83.9 mmol, 1.2 eq.), Na2CO3 (35 mL, 244.65 mmol, 3.5 eq.) and dppfPdCl2 (572 mg, 0.07 mmol, 0.01 eq.) were mixed in THF (200 mL). The mixture was heated to reflux and continued at this temperature for 6 hours. It was then cooled and concentrated in vacuo. The residue was partitioned between DCM and water (100 mL/40 mL). The layers were separated and the aqueous layer was washed further with DCM (2×40 mL). The combined organic layer was dried (Na2SO4) and filtered. The filtrate was concentrated, and the residue was chromatographed using 1/1 hexane/EtOAc to give 1-[3-(2-Chloro-pyridin-4-yl)-phenyl]-ethanone as a white solid (9.5 g, 58%). MS: m/z 232.1 [MH+].

reactant | 2-Chloropyridine-4-boronic acid | 69.9 mmol, 11.0 g | ClC1=NC=CC(=C1)B(O)O | C5H5BClNO2
reactant | 3-Bromoacetophenone | 83.9 mmol, 11.2 mL, 1.2 eq. | CC(=O)C1=CC(=CC=C1)Br | C8H7BrO
reactant | Na2CO3 | 244.65 mmol, 35 mL, 3.5 eq. | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
catalyst | dppfPdCl2 | 0.07 mmol, 572 mg, 0.01 eq. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-[3-(2-Chloro-pyridin-4-yl)-phenyl]-ethanone | 9.5 g, 58% | ClC1=NC=CC(=C1)C=1C=C(C=CC1)C(C)=O | C13H10ClNO
